US06972294B1
(E)-(2S)-3-{4-[3-(4-Bromophenyl)-3-phenyl-allyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester
Reaction of (E)-3-(4-bromophenyl)-3-phenyl-prop-2-en-1-ol (289 mg, 1.0 mmol), tributylphosphine (0.37 ml, 1.5 mmol), (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (262 mg, 1.10 mmol) and azodicarboxylic dipiperidide (378 mg, 1.5 mmol) in benzene in an identical manner to example 3 gave the title compound (460 mg, 90%).

reactant | (E)-3-(4-bromophenyl)-3-phenyl-prop-2-en-1-ol | 1.0 mmol, 289 mg | BrC1=CC=C(C=C1)/C(=C/CO)/C1=CC=CC=C1 | C15H13BrO
reactant | tributylphosphine | 1.5 mmol, 0.37 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (2S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 1.10 mmol, 262 mg | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (E)-(2S)-3-{4-[3-(4-Bromophenyl)-3-phenyl-allyloxy]-phenyl}-2-ethoxy-propionic acid ethyl ester | 460 mg, 90% | C(C)OC([C@H](CC1=CC=C(C=C1)OC\C=C(/C1=CC=CC=C1)\C1=CC=C(C=C1)Br)OCC)=O | C28H29BrO4
